US09303007B2
A solution of 2,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene (1.0 g, 2.6 mmol), (1R,3S,5R)-tert-butyl 3-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (1.06 g, 2.63 mmol), Na2CO3 (0.837 g, 7.89 mmol) in DME (20 mL) and water (2 mL) was degassed under vacuum for 10 min. The mixture was heated at 80° C. and then Pd(Ph3P)4 (0.152 g, 0.132 mmol) was added under a stream of nitrogen. The reactor was sealed and the heating was pursued further at 120° C. for 16 h. The DME was removed in vacuo and the crude material was partitioned between EtOAc/H2O. The layers were separated and the aqueous layer was extracted several times with EtOAc. The combined organic extracts were dried over Na2SO4 and evaporated in vacuo. The residue was purified by flash column chromatography (BIOTAGE®), eluting with a gradient of 0 to 5% MeOH/DCM to afford the partially pure target product contaminated with reaction side products. The impure product was purified again by flash column chromatography (BIOTAGE®), eluting with a gradient of 50 to 100% EtOAc/hexanes, then the column was flushed with 10% MeOH/DCM to afford (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate (606 mg) as yellow foam. LC-MS retention time 1.608 min; m/z 578.4 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (500 MHz, chloroform-d, Partial NMR) δ ppm 4.89 (br s, 1H), 3.20-3.66 (m, 1H), 2.33-2.50 (m, 1H), 1.76-1.86 (m, 1H), 1.52 (br s, 9H), 1.24-1.32 (m, 12H), 0.87-0.93 (m, 1H), 0.51 (br s, 1H).

reactant | 2,6-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalene | 2.6 mmol, 1.0 g | CC1(OB(OC1(C)C)C1=CC2=CC=C(C=C2C=C1)B1OC(C(O1)(C)C)(C)C)C | C22H30B2O4
reactant | (1R,3S,5R)-tert-butyl 3-(5-(4-bromophenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 2.63 mmol, 1.06 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C | C19H22BrN3O2
reactant | Na2CO3 | 7.89 mmol, 0.837 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.132 mmol, 0.152 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,3S,5R)-tert-butyl 3-(5-(4-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)phenyl)-1H-imidazol-2-yl)-2-azabicyclo[3.1.0]hexane-2-carboxylate | 606 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@@H]2C[C@@H]2C1)C(=O)OC(C)(C)C)C | C35H40BN3O4
